US04459414
4-(p-Toluylthio)-3,5,6-trichlorophthalic acid N-2-hydroxyethylimide
2 g (6.08 millimols) of tetrachlorophthalic acid N-2-hydroxyethylimide, 0.79 g (6.38 millimols) of p-thiocresol, 2.52 g (18.24 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 25° C. for 20 hours. The mixture is acidified with dilute HCl solution and extracted with methylene chloride and the extracts are dried over sodium sulfate. After recrystallisation from toluene, 1.41 g (56% of theory) of the title compound are obtained: melting point 205°-9° C.

reactant | tetrachlorophthalic acid N-2-hydroxyethylimide | 6.08 millimols, 2 g | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C10H7Cl4NO4
reactant | p-thiocresol | 6.38 millimols, 0.79 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 18.24 millimols, 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(p-Toluylthio)-3,5,6-trichlorophthalic acid N-2-hydroxyethylimide | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)SC1=CC=C(C=C1)C)Cl)O | C17H14Cl3NO4S
